US04059433
A mixture of 8.5 g of 1-methyl-3-(4-cyano-3-propoxy-5-isothiazolyl)urea with 20 ml of concentrated sulfuric acid was heated to 50° during 1 hour. Analysis by thin-layer chromatography at this time indicated the reaction to be complete. The reaction mixture was poured with stirring into 200 ml of water. The resulting solution was neutralized with ammonium hydroxide solution and the precipitate was collected by filtration. The dried solid was recrystallized from ethanol to give 6.3 g of 1-methyl-3-(4-carbamoyl-3-propoxy-5-isothiazolyl)urea, m.p. 195°-198°. The nmr and ir spectra were consistent with the assigned structure.

reactant | 1-methyl-3-(4-cyano-3-propoxy-5-isothiazolyl)urea | 8.5 g | CNC(=O)NC1=C(C(=NS1)OCCC)C#N | C9H12N4O2S
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 200 ml | O | H2O
product | 1-methyl-3-(4-carbamoyl-3-propoxy-5-isothiazolyl)urea | 6.3 g | CNC(=O)NC1=C(C(=NS1)OCCC)C(N)=O | C9H14N4O3S
